US04582837
2-(2'-Methoxy-5'-methanesulfonylamino-phenyl)-imidazo[4,5-b]pyridine
Prepared analogously to Example 14 from 2,3-diaminopyridine and 2-methoxy-5-methanesulfonylamino-benzoic acid,

reactant | 2,3-diaminopyridine | NC1=NC=CC=C1N | C5H7N3
reactant | 2-methoxy-5-methanesulfonylamino-benzoic acid | COC1=C(C(=O)O)C=C(C=C1)NS(=O)(=O)C | C9H11NO5S
product | 2-(2'-Methoxy-5'-methanesulfonylamino-phenyl)-imidazo[4,5-b]pyridine | COC1=C(C=C(C=C1)NS(=O)(=O)C)C=1NC=2C(=NC=CC2)N1 | C14H14N4O3S
